US04812164
using isopropyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-5-fluoro-4-pentafluoroethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate with phosphorus oxychloride and pyridine within 6 hours at room temperature there is obtained isopropyl 2-chloro-5-[2-chloro-5-fluoro-6-oxo-4-pentafluoroethyl-1(6H) -pyrimidinyl]-4-fluorobenzoate, 1H-NMR (CDCl3, 400 MHz): 7.88 ppm (d,1H), 7.48 ppm (d,1H), 5.28 ppm (m,1H), 1.39 ppm (d,6H),

reactant | isopropyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-5-fluoro-4-pentafluoroethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=C(C1=O)F)C(C(F)(F)F)(F)F)=O | C16H10ClF7N2O4
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | isopropyl 2-chloro-5-[2-chloro-5-fluoro-6-oxo-4-pentafluoroethyl-1(6H) -pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=C(C1=O)F)C(C(F)(F)F)(F)F)Cl | C16H9Cl2F7N2O3
